US06660744B1
Trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-1,3-benzoxazol-2-amine was prepared from trans-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.036 g, 0.082 mmol) and N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine (0.034 g, 0.10 mmol) in a manner similar to that used for cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as an off-white powder (0.021 g, 50%): 1H NMR (DMSO-d6, 400 MHz) δ 10.86 (s, 1H), 8.23 (s, 1H), 7.93 (d, 2H), 7.66 (d, 2H), 7.51 (t, 1H), 7.25 (t, 1H), 7.16 (t, 1H), 4.65 (m, 1H), 3.51 (m, 1H), 2.67-1.91 (m, 17H), 1.49-1.46 (m, 2H); RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) tr=7.17 min., 100%; m/z 524 (MH+).

reactant | trans-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.082 mmol, 0.036 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine | 0.10 mmol, 0.034 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=CC=C2)C | C19H21BN2O3
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32FN9O
product | Trans-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=CC=C1)[C@@H]1CC[C@H](CC1)N1CCN(CC1)C | C29H33N9O
